US07452886B2
To a solution of 4-(4-Ethoxy-2-fluoro-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester (12 mmol) in CH2Cl2 (150 ml), TFA (29 ml) is added at 0° C. The reaction mixture is stirred at room temperature for 1 h. The solvent is removed by evaporation and dried to give crude product, 1-(4-ethoxy-2-fluoro-phenyl)-piperazine. To the crude product in DMF (50 ml), potassium carbonate (30 mmol) is successively added at 0° C. The mixture is stirred at 0° C. for 15 min. 6-Bromomethyl-7-(2,2-dimethyl-propyl)-7.H.-pyrrolo[2,3-.d.]pyrimidine-2-carbonitrile (12 mmol) is added to the mixture at 0° C. The reaction mixture is stirred at room temperature for 3 h and quenched with saturated ammonium chloride. The mixture is extracted with AcOEt. The combined extracts are washed with H2O, brine and dried over magnesium sulfate. The solvent is evaporated and the residue is purified by column chromatography on silica gel using n-hexane:AcOEt=2:1 (v/v).

reactant | 4-(4-Ethoxy-2-fluoro-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester | 12 mmol | C(C)OC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)F | C17H25FN2O3
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 29 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-ethoxy-2-fluoro-phenyl)-piperazine | C(C)OC1=CC(=C(C=C1)N1CCNCC1)F | C12H17FN2O
